US08431607B2
2-(3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)imidazolidin-1-yl)-N-propylacetamide
To a solution of 2-(3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)-imidazolidin-1-yl)acetic acid (16.0 mg, 0.0326 mmol), HATU (18.6 mg, 0.0489 mmol) and iPr2NEt (17.0 μL, 0.0978 mmol) in DMF (0.5 mL) is added propylamine (5.36 μL, 0.0652 mmol). The reaction mixture is stirred at room temperature overnight before removal of the solvent. The residue is purified by preparative LC/MS to provide the title compound; HPLC-MS calculated for C27H25ClF3N3O3 (M+H+) 532.2, found 532.2.

reactant | 2-(3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)-imidazolidin-1-yl)acetic acid | 0.0326 mmol, 16.0 mg | ClC1=CC=C(OC2=CC=C(C=C2)N2C(N(CC2C2=CC(=CC=C2)C(F)(F)F)CC(=O)O)=O)C=C1 | C24H18ClF3N2O4
reactant | HATU | 0.0489 mmol, 18.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | iPr2NEt | 0.0978 mmol, 17.0 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | propylamine | 0.0652 mmol, 5.36 μL | C(CC)N | C3H9N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-(3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)imidazolidin-1-yl)-N-propylacetamide | ClC1=CC=C(OC2=CC=C(C=C2)N2C(N(CC2C2=CC(=CC=C2)C(F)(F)F)CC(=O)NCCC)=O)C=C1 | C27H25ClF3N3O3
